US06603012B2
2.1. Preparation of (RS)-benzyl-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoate
300 mg of 2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoic acid were dissolved in 10 ml of methylene chloride and to this solution, were added successively, 240 mg of benzyl-4-hydroxybenzoate and 116 mg of N,N-dimethylaminopyridine. The reaction mixture was cooled to 0° C. and 217 mg of 1,3-dicyclohexylcarbodiimide was added at once. The mixture was stirred at 0° C. for 2 hours then at room temperature for 2 hours. The reaction mixture was filtered and the resulting filtrate was washed with 2 portions of 25 ml of water. The organic phase was dried over MgSO4 and the solvent evaporated. The oil/solid residue was purified by flash chromatography (SiO2, 10% ethyl acetate/hexanes) and gave 403 mg of a colorless oil, 1H NMR (CDCl3): 8.07 (d, J=8.8 Hz, 2H), 7.38-7.50 (m, 4H), 7.27 (m, 3H), 7.15 (m, 1H), 7.08 (d, J=8.8 Hz, 2H), 5.35 (s, 2H), 3.73 (dd, J=9.0, 7.5 Hz, 1H), 2.18 (m, 1H), 1.82 (m, 1H), 1.68 (s, 4H), 1.2-1.5 (m, 6H), 1.29 (s, 3H), 1.28 (s, 9H), 0.88 (t, J=7.5 Hz, 3H).

reactant | 2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoic acid | 300 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)CCCCC)C | C21H32O2
reactant | benzyl-4-hydroxybenzoate | 240 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C14H12O3
reactant | 1,3-dicyclohexylcarbodiimide | 217 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (RS)-benzyl-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoate | 403 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OC(C(CCCCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)=O | C35H42O4
